US08835428B2
Step 4: Ethyl 3-(3-methyl-4-nitrophenyl)isoxazole-5-carboxylate:
To a solution of (Z)—N-hydroxy-3-methyl-4-nitrobenzimidoyl chloride (1.0 equiv.), ethyl propiolate (2.0 equiv.) in toluene was dropwise added Et3N over a period of 30 min. at RT and continued stirring at RT for 15 min. The reaction mixture was then heated at 80° C. for 16 hours. Reaction mass was diluted with EtOAc and neutralized with dilute HCl. The organic layer was washed with water, brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash chromatography on silica gel, eluting with 100% CHCl3, to provide the title compound as creamish crystals (65%); 1H NMR (300 MHz, DMSO-d6) δ: 1.31-1.36 (t, J=7.0 Hz, 3H), 2.56 (s, 3H), 4.35-4.42 (q, 2H), 7.99-8.02 (m, 2H), 8.08 (s, 1H), 8.11 (m, 1H); IR (KBr) 3124, 3091, 2995, 2908, 1727, 1612, 1588, 1520, 1443, 1344, 1285, 1140, 1015, 950, 873, 771 cm−1.

reactant | (Z)—N-hydroxy-3-methyl-4-nitrobenzimidoyl chloride | 1.0 equiv. | O\N=C(\C1=CC(=C(C=C1)[N+](=O)[O-])C)/Cl | C8H7ClN2O3
reactant | ethyl propiolate | 2.0 equiv. | C(C#C)(=O)OCC | C5H6O2
reactant | Et3N | CCN(CC)CC | C6H15N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | HCl | Cl | ClH
product | Ethyl 3-(3-methyl-4-nitrophenyl)isoxazole-5-carboxylate | 65% | CC=1C=C(C=CC1[N+](=O)[O-])C1=NOC(=C1)C(=O)OCC | C13H12N2O5
